US07405299B2
Preparation of 3-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo [1,2-b]pyrazol-3-yl)-pyrazolo[1,5-a]pyrimidine
Weigh into a round bottom flask 3-bromopyrazolo[1,5-a]pyrimidine (Lynch et al. Can. J. Chem. 1975, 53, 119-122; 0.095 g, 0.48 mmol), 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid (Preparation 5; 0.10 g, 0.44 mmol), triphenylphosphine (Aldrich; 0.007 g, 0.027 mmol) and tris(dibenzylideneacetone)dipalladium(0) (Aldrich; 0.015 g, 0.016 mmol). Add p-dioxane (6 ml) and 2.0M aqueous potassium carbonate (2 mL). Stir and reflux under nitrogen for 6 h. Dilute with ethyl acetate, separate the organic layer, concentrate under reduced pressure, and chromatograph on flash silica using neat acetonitrile. Purify on a preparative reverse phase C-18 high-performance chromatography column using a gradient from 5% to 100% acetonitrile in 0.03% aqueous hydrochloric acid. Concentrate the pure fractions under reduced pressure, dissolve the residue in distilled water, and make basic by adding 1.0M aqueous sodium hydroxide. Extract with dichloromethane, dry the organic layer over anhydrous sodium sulfate, filter, and concentrate under reduced pressure to obtain 6 mg (4.5%) of the title compound as a yellow solid. TOF MS ES+ exact mass calculated for C17H15N6 (M+1): m/z=303.1358; Found: 303.1371. 1H NMR (400 MHz, CDCl3) δ 8.66 (d, J=2 Hz, 1H), 8.64 (d, J=2 Hz, 1H), 8.41 (dd, J=4, 2 Hz, 1H), 8.31 (s, 1H), 7.70 (m, 2H), 7.21 (m, 1H), 6.79 (dd, J=7, 4 Hz, 1H), 4.30 (t, J=7 Hz, 2H), 3.10 (t, J=8 Hz, 2H), 2.68 (m, 2H).

reactant | 3-bromopyrazolo[1,5-a]pyrimidine | 0.48 mmol, 0.095 g | BrC=1C=NN2C1N=CC=C2 | C6H4BrN3
reactant | 2-(pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid | 0.44 mmol, 0.10 g | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)B(O)O | C11H12BN3O2
reactant | triphenylphosphine | 0.027 mmol, 0.007 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | potassium carbonate | 2.0M, 2 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.016 mmol, 0.015 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | p-dioxane | 6 ml | O1CCOCC1 | C4H8O2
product | 3-[2-(Pyridin-2-yl)-5,6-dihydro-4H-pyrrolo [1,2-b]pyrazol-3-yl)-pyrazolo[1,5-a]pyrimidine | 6 mg, 4.5% | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C=2C=NN1C2N=CC=C1 | C17H14N6
